US07601714B2
To a stirred slurry of trans-4-aminomethyl-cyclohexanecarboxylic acid (5.00 g, 31.8 mmol) and K2CO3 (4.40 g, 127.2 mmol) in MeOH (100 mL) cooled to 0° C. was added benzyl bromide (7.94 mL, 66.8 mmol). The reaction mixture was allowed to warm to room temperature and stirred overnight. Most of the volatiles were removed in vacuo before addition of water (100 mL). The aqueous mixture was extracted with Et2O (2×200 mL) before adjusting to pH 5-6 by addition of 2 N HCl. The aqueous phase was extracted with DCM (3×200 mL) and the combined DCM extracts dried over Na2SO4 before concentrating in vacuo to afford trans-4-[(dibenzylamino)-methyl]-cyclohexanecarboxylic acid (3.22 g, 43%) as an off-white solid, m/z 338 [M+1]+.

reactant | trans-4-aminomethyl-cyclohexanecarboxylic acid | 31.8 mmol, 5.00 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | K2CO3 | 127.2 mmol, 4.40 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 66.8 mmol, 7.94 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | MeOH | 100 mL | CO | CH4O
product | trans-4-[(dibenzylamino)-methyl]-cyclohexanecarboxylic acid | 3.22 g, 43% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@H]1CC[C@H](CC1)C(=O)O | C22H27NO2
